Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfasalazine / Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
Elevated BP
Oligohydramnios
 
Major Surgical or Invasive Procedure:
primary cesarean section

 
History of Present Illness:
___ G1P0->1 presented at 34w4d for cesarean section secondary 
to AFI of 5 and increased BPs.  At the time, pt denies any 
headaches, vision changes, or right upper quadrant pain.  Full 
fetal survey demonstrated complete cleft patal of the fetus.
 
Past Medical History:
hypothyroidism
 
Social History:
married
no t/e/d
 
Physical Exam:
On admission:
97.6   90   24   137/91
NAD
Abd: soft, NT, gravid
Ext: no calf tenderness
 
Pertinent Results:
___ 01:52PM BLOOD Hct-26.0*
___ 11:47PM BLOOD WBC-13.8* RBC-3.23* Hgb-10.0* Hct-27.1* 
MCV-84 MCH-31.0 MCHC-36.9* RDW-15.2 Plt ___
___ 11:47PM BLOOD Plt ___
___ 11:47PM BLOOD ___ PTT-29.7 ___
___ 03:09PM BLOOD Plt ___
___ 11:47PM BLOOD ___ 03:09PM BLOOD Creat-0.6
___ 03:09PM BLOOD ALT-27
___ 03:09PM BLOOD UricAcd-4.9
___ 07:00PM BLOOD TSH-2.9
 
Brief Hospital Course:
Pt underwent LTCS on ___ for oligohydramnios, elevated BPs, 
and cledt lip/palate with no complications. She had some low 
urine output immediately post operatively which resolved with 
IVF bolus.  On ___ pt's BP increased to 150s/90s with no 
symptoms of pre-eclampsia.  Pt was started on Nifedipine 30mg 
CR.  Later that day pt complaining of palpatations with 
intermittent tachycardia but stable vital signs, no chest pain, 
shortness of breath, or other signs of cardiac cause to 
symptoms.  Pt's pulse ox persistently stable.  EKG demonstrated 
sinus tachycardia.  TSH checked and synthroid held for one day 
to see if these palpitations could be due to hyperthyroidism.  
TSH returned normal and pt continued to have intermittent 
tachycardia and palpitations despite holding of synthroid.  
Repeate EKGs continued to demonstrate NSR.  As symptoms began 
soon after initiation of Nifedipine, palpatations and 
tachycardia attributed to adverse medication reaction and 
Nifedipine was discontinued.  Pt's tachycardia resolved but she 
had elevated BPs in the 150s/90-100s.  Pt started on labetalol 
100mg BID on ___ for blood pressure control.  Pt also had 
episode of chest pressure discomfort on ___.  All vital signs 
were stable at the time including a pulse ox of 97%/RA.  Repeat 
EKG again demonstrated NSR.  Pt's symptoms spontaneously 
resolved without any intervention and patient was discharged 
home in stable condition on labetolol.
 
Medications on Admission:
prenatal vitamins
 
Discharge Medications:
1. Breast Pump     Device Sig: One (1)  Miscellaneous every four 
(4) hours: baby with cleft palate, unable to latch.
Disp:*1 1* Refills:*0*
2. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q3-4H () as needed.
Disp:*40 Tablet(s)* Refills:*0*
3. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed.
Disp:*40 Tablet(s)* Refills:*2*
4. Labetalol 100mg BID
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
single intrauterine pregnancy at term- delivered
fetal cleft lip and palate

 
Discharge Condition:
good

 
Discharge Instructions:
call for temp >100.4, increased vaginal bleeding, discharge or 
bleeding from incision, headache/dizziness, or malaise.
 
Followup Instructions:
___